US09340547B2
a) (S)-tert-Butyl 1-(3-bromo-2-(3,5-dichlorophenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
To a solution of 1.58 g (4.53 mmol) of 1-amino-3-bromo-N-(3,5-dichlorophenyl)-1H-pyrrole-2-carboxamide in 30 mL DMF were added 2.60 mL (14.93 mmol) of DIEA and 0.94 g (4.97 mmol) of (S)-2-(tert-butoxycarbonylamino)propanoic acid. The solution was cooled to 0° C. and 4 mL of T3P® (50% solution in DMF, 6.78 mmol) were added dropwise. The mixture was stirred at room temperature overnight and an additional 2.60 mL (14.93 mmol) of DIEA, 0.94 g (4.97 mmol) of (S)-2-(tert-butoxycarbonylamino)propanoic acid and 4 mL of T3P® (50% solution in DMF, 6.78 mmol) were added. The stirring was kept for 24 hours more and water was added to the reaction mixture. The product was extracted three times with ethyl acetate and the combined organic extracts were washed with water and brine, dried over magnesium sulphate, filtered and the solvents evaporated in vacuum. The product was purified by flash chromatography (0% to 50% hexane/AcOEt) to give 1.11 g (47% yield) of the title compound as a beige solid.

reactant | 1-amino-3-bromo-N-(3,5-dichlorophenyl)-1H-pyrrole-2-carboxamide | 4.53 mmol, 1.58 g | NN1C(=C(C=C1)Br)C(=O)NC1=CC(=CC(=C1)Cl)Cl | C11H8BrCl2N3O
reactant | DIEA | 14.93 mmol, 2.60 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 4.97 mmol, 0.94 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | T3P | 4 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIEA | 14.93 mmol, 2.60 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 4.97 mmol, 0.94 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | T3P | 4 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-tert-Butyl 1-(3-bromo-2-(3,5-dichlorophenylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 1.11 g, 47% yield | BrC1=C(N(C=C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NC1=CC(=CC(=C1)Cl)Cl)=O | C19H21BrCl2N4O4
